US07285564B2
Step D—Preparation of 4-[N-(7-Bromo-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine
4-[N-(7-Hydroxy-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine (2.0 g, 5.7 mmol) was treated with dibromotriphenylphosphorane (6.1 g, 14.4 mmol) in dichloromethane for 2 h. The reaction mixture was then was washed with 1 N sodium hydroxide, saturated sodium bicarbonate, brine, dried over magnesium sulfate and concentrated to give the title intermediate, which was used without further purification.

reactant | 4-[N-(7-Hydroxy-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine | 5.7 mmol, 2.0 g | OCCOCCCCN(C(C)C)C1CCN(CC1)CC1=CC=CC=C1 | C21H36N2O2
reactant | dibromotriphenylphosphorane | 14.4 mmol, 6.1 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[N-(7-Bromo-5-oxahept-1-yl)-N-(isopropyl)amino]-1-benzylpiperidine | BrCCOCCCCN(C(C)C)C1CCN(CC1)CC1=CC=CC=C1 | C21H35BrN2O
